US07399759B2
tert-butyl 3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionate
tert-Butyl 3-(2-cyano-4-pyridyl)propionate (0.51 g, 2.2 mmol) and methyl thiosalicylate (0.55 g, 3.3 mmol) were dissolved in toluene (2 ml), and triethylamine (0.47 ml, 3.4 mmol) was added thereto. The mixture was refluxed for 8 hrs and subjected to a silica gel (30 g) column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected and concentrated to give the titled compound (0.56 g, 69%) as white crystals.

reactant | tert-Butyl 3-(2-cyano-4-pyridyl)propionate | 2.2 mmol, 0.51 g | C(#N)C1=NC=CC(=C1)CCC(=O)OC(C)(C)C | C13H16N2O2
reactant | methyl thiosalicylate | 3.3 mmol, 0.55 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 3.4 mmol, 0.47 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionate | 0.56 g, 69% | O=C1N=C(SC2=C1C=CC=C2)C2=NC=CC(=C2)CCC(=O)OC(C)(C)C | C20H20N2O3S
